US08664380B2
methyl 1-(4-methoxybutyl)-4,5,6,7-tetrahydro-1H-benzimidazole-2-carboxylate
1-(4-Methoxybutyl)-4,5,6,7-tetrahydro-1H-benzimidazole (625 mg) was dissolved in acetonitrile (5 ml), and the mixture was cooled to −15° C. Triethylamine (1.25 ml) and methyl chlorocarbonate (691 μl) were added dropwise. The reaction mixture was heated to room temperature and stirred for 12 hr. The reaction mixture was again cooled to −15° C., triethylamine (1.25 ml) and methyl chlorocarbonate (691 μl) were added dropwise, heated to room temperature and stirred for 12 hr. This operation was further repeated 3 times, aqueous sodium bicarbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (225 mg).

reactant | 1-(4-Methoxybutyl)-4,5,6,7-tetrahydro-1H-benzimidazole | 625 mg | COCCCCN1C=NC2=C1CCCC2 | C12H20N2O
reactant | Triethylamine | 1.25 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chlorocarbonate | 691 μl | C(OC)(=O)Cl | C2H3ClO2
reactant | triethylamine | 1.25 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chlorocarbonate | 691 μl | C(OC)(=O)Cl | C2H3ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | methyl 1-(4-methoxybutyl)-4,5,6,7-tetrahydro-1H-benzimidazole-2-carboxylate | 225 mg | COCCCCN1C(=NC2=C1CCCC2)C(=O)OC | C14H22N2O3
